US04929606
16.8 g of 3-(1,3,3-trimethyl-6-aza-bicyclo[3,2,1]oct-6-yl)-propionic acid ethyl ester (0.066 mol) are heated under reflux with 300 ml of 4N hydrochloric acid for 24 hours. The mixture is then completely concentrated by evaporation under reduced pressure and the crystalline residue is triturated with acetone. After filtering the crystals with suction, washing and drying, 3-(1,3,3-trimethyl-6-aza-bicyclo[3,2,1]oct-6-yl)-propionic acid hydrochloride, m.p. 183°-185° C. (decomposition) is obtained.

reactant | 3-(1,3,3-trimethyl-6-aza-bicyclo[3,2,1]oct-6-yl)-propionic acid ethyl ester | 0.066 mol, 16.8 g | C(C)OC(CCN1C2CC(CC(C1)(C2)C)(C)C)=O | C15H27NO2
reactant | hydrochloric acid | 4N, 300 ml | Cl | ClH
product | 3-(1,3,3-trimethyl-6-aza-bicyclo[3,2,1]oct-6-yl)-propionic acid hydrochloride | Cl.CC12CC(CC(N(C1)CCC(=O)O)C2)(C)C | InChI=1S/C13H23NO2.ClH/c1-12(2)6-10-7-13(3,8-12)9-14(10)5-4-11(15)16;/h10H,4-9H2,1-3H3,(H,15,16);1H
